US08357679B2
Ethyl 4-(3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)phenyl)ureido)benzoate
2-(4-((4-(4-Aminophenyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.461 mmol, 200 mg) and ethyl 4-isocyanatobenzoate (0.554 mmol, 0.060 mL, 106 mg) were combined in dichloromethane and heated in a microwave at 100° C. for 10 minutes. The reaction mixture was concentrated under vacuum. The residue was purified by acidic preparative HPLC and SCX chromatography to afford the title compound (212.3 mg). MS (ESI) m/z 625.2 [M+H]+

reactant | 2-(4-((4-(4-Aminophenyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.461 mmol, 200 mg | NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C20H21F6N3O
reactant | ethyl 4-isocyanatobenzoate | 0.554 mmol, 0.060 mL, 106 mg | N(=C=O)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 4-(3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)phenyl)ureido)benzoate | 212.3 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C2=CC=C(C=C2)NC(NC2=CC=C(C(=O)OCC)C=C2)=O)C=C1)(F)F | C30H30F6N4O4
